US06288086B1
1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83 starting from [4-(2-ethyl-butoxy)-phenylsulfonyl]-acetic acid ethyl ester (6.4 g, 20 mmol) and bis-(2-chloro-ethyl)-benzyl amine (6.44 g, 24 mmol). Yield 8 g (82%); yellow oil; MS: 488 (M+H)+

reactant | [4-(2-ethyl-butoxy)-phenylsulfonyl]-acetic acid ethyl ester | 20 mmol, 6.4 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC(CC)CC)=O | C16H24O5S
reactant | bis-(2-chloro-ethyl)-benzyl amine | 24 mmol, 6.44 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
product | 1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC(CC)CC | C27H37NO5S
